US07745438B2
4,4,4-trifluoro-2-methylbut-2-enoic acid
Heat a solution of ethyl 4,4,4-trifluoro-2-methylbut-2-enoic acid (0.544 g, 2.99 mmol) in 5M sulfuric acid (5 mL) at 120° C. for 2.5 days. Saturate the solution with sodium chloride and extract with diethyl ether (1×40 mL). Dry the organic phase with magnesium sulfate and concentrate under reduced pressure to provide 0.288 g (62.6%) of the title compound.

reactant | ethyl 4,4,4-trifluoro-2-methylbut-2-enoic acid | 2.99 mmol, 0.544 g | C(C)C(=C(C(=O)O)C)C(F)(F)F | C7H9F3O2
solvent | sulfuric acid | 5M, 5 mL | S(O)(O)(=O)=O | H2O4S
product | 4,4,4-trifluoro-2-methylbut-2-enoic acid | 0.288 g, 62.6% | FC(C=C(C(=O)O)C)(F)F | C5H5F3O2
